US08912186B2
N-(2-Nitro-4-phenoxyphenyl)-3-(4-chlorophenyl)glutaramic acid (0.72 g) is dissolved in methanol (8 ml). Iron powder (0.88 g) is added and the suspension is heated to reflux. Conc. HCl (10 drops) was added carefully and refluxing was continued for 1 h. Then further conc. HCl (4 ml) was added and the greenish-yellow solution was stirred at reflux for additional 20 h. After cooling to rt the solution was poured into a mixture of sat. NaHCO3 solution (60 ml) and ethyl acetate (50 ml). The inorganic precipitates were removed by suction filtration and subsequently washed with ethyl acetate. From the filtrate the organic layer was separated and the aqueous layer extracted with ethyl acetate (50 ml). The combined organic layers were dried (sodium sulfate), concentrated and dried in vacuo. The residue (0.61 g of brownish oil) was purified by flash chromatography (dichloromethane/2% methanol/1% triethyl amine) on silica gel to give methyl 3-(4-chlorophenyl)-4-(5-phenoxy-2-benzimidazolyl)butanoate (0.46 g) as a colourless solid.

reactant | N-(2-Nitro-4-phenoxyphenyl)-3-(4-chlorophenyl)glutaramic acid | 0.72 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=CC=CC=C1)NC(CC(CC(=O)O)C1=CC=C(C=C1)Cl)=O | C23H19ClN2O6
reactant | HCl | 4 ml | Cl | ClH
reactant | NaHCO3 | 60 ml | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 8 ml | CO | CH4O
catalyst | HCl | 10 drops | Cl | ClH
catalyst | Iron | 0.88 g | [Fe] | Fe
product | methyl 3-(4-chlorophenyl)-4-(5-phenoxy-2-benzimidazolyl)butanoate | 0.46 g | ClC1=CC=C(C=C1)C(CC(=O)OC)CC=1NC2=C(N1)C=CC(=C2)OC2=CC=CC=C2 | C24H21ClN2O3
